US08247556B2
N-(4-tert-Butylphenyl)-2-[(1H-pyrrolo[2,3-b]pyridin-4-ylmethyl)amino]nicotinamide
The titled compound was prepared from N-(4-tert-butyl-phenyl)-2-fluoro-nicotinamide and C-(1H-pyrrolo[2,3-b]pyridin-4-yl)-methylamine dihydrochloride by the method described in Step A of Example 1. MS (ES+): 400 (M+H). Calc'd. for C24H25N5O—399.50.

reactant | N-(4-tert-butyl-phenyl)-2-fluoro-nicotinamide | C(C)(C)(C)C1=CC=C(C=C1)NC(C1=C(N=CC=C1)F)=O | C16H17FN2O
reactant | C-(1H-pyrrolo[2,3-b]pyridin-4-yl)-methylamine dihydrochloride | Cl.Cl.N1C=CC=2C1=NC=CC2CN
product | N-(4-tert-Butylphenyl)-2-[(1H-pyrrolo[2,3-b]pyridin-4-ylmethyl)amino]nicotinamide | C(C)(C)(C)C1=CC=C(C=C1)NC(C1=C(N=CC=C1)NCC1=C2C(=NC=C1)NC=C2)=O | C24H25N5O
